US07067702B2
Synthesis of 4-iodo-4′-bromobenzalacetophenone:
Sodium hydroxide (5.5 g, 138 mmol) and 4-iodoacetophenone (25.0 g, 102 mmol) were dissolved in water (50 mL) and ethanol (80 mL). 4-Bromo benzaldehyde (18.8 g, 102 mmol) dissolved in ethanol (40 mL) was added dropwise to the acetophenone solution. A slurry quickly formed, which was allowed to stir overnight. The slurry was filtered, was with water until the filtrate was neutral to pH paper, and dried at 100° C. for 12 hours. A light tan solid was obtained (21.1 g, 50% yield).

reactant | Sodium hydroxide | 138 mmol, 5.5 g | [OH-].[Na+]
reactant | 4-iodoacetophenone | 102 mmol, 25.0 g | CC(=O)C1=CC=C(C=C1)I | C8H7IO
reactant | 4-Bromo benzaldehyde | 102 mmol, 18.8 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | water | 50 mL | O | H2O
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 4-iodo-4′-bromobenzalacetophenone | 50% yield | IC1=CC=C(C=CC(=O)C2=CC=C(C=C2)Br)C=C1 | C15H10BrIO
